US08865029B2
2,2-Bis(4-methoxyphenyl)-5-(2-hydroxyethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran (U.S. Pat. No. 6,113,814) (0.20 g, 0.34 mmol) was dissolved in anhydrous diethyl ether (20 ml) under nitrogen. To this solution was added triethylamine (0.2 ml) followed by the Acid Chloride Terminated Polydimethylsiloxane (Example 1, Step 2) (0.264 g), dropwise. The mixture was stirred at room temperature for 1 hour. The solvent was evaporated and the crude product then purified by column chromatography (silica gel, diethyl ether/hexane, 5:1) giving the bulk product, Naphthopyran Terminated Polydimethylsiloxane, as a pink tar. Analysis by 1H NMR gave a spectrum consistent with the structure, having an average molecular weight (Mn) of 2,592 (nPDMS=14.1).

reactant | 2,2-Bis(4-methoxyphenyl)-5-(2-hydroxyethoxycarbonyl)-6-phenyl-[2H]-naphtho[1,2-b]pyran | COC1=CC=C(C=C1)C1(C=CC2=C(O1)C1=CC=CC=C1C(=C2C(=O)OCCO)C2=CC=CC=C2)C2=CC=C(C=C2)OC | C36H30O6
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Naphthopyran | C1=CCOC2=C1C1=CC=CC=C1C=C2 | C13H10O
